US08207164B2
a) 3-Chloro-5-hydroxy-pyridine-2-carbonitrile
To a solution of acetic acid 5,6-dichloro-pyridin-3-yl ester (CA 110861-18-2, Synthesis, 1990, 499) (4.88 g, 23.6 mmol) in anhydrous DMF (45 ml) was added after degasing with argon Zn-dust (70 mg, 1.07 mmol), Zn(CN)2 (1.28 g, 10.9 mmol) and DPPF PdCl2 (966 mg, 1.18 mmol) and the reaction mixture was heated for 6 h at 130° C. and 18 h at 150° C. The reaction mixture was diluted with TBME and H2O, filtered over Celite, and the product was extracted with TBME. Combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated. The title compound was obtained as a beige solid after crystallization from EtOAc-hexane: TLC(CH2Cl2-MeOH 19:1): Rf=0.22;

reactant | acetic acid 5,6-dichloro-pyridin-3-yl ester | 23.6 mmol, 4.88 g | ClC=1C=C(C=NC1Cl)OC(C)=O | C7H5Cl2NO2
reactant | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | TBME | CC(C)(C)OC | C5H12O
solvent | H2O | O | H2O
catalyst | argon Zn | 1.07 mmol, 70 mg | [Ar].[Zn]
catalyst | Zn(CN)2 | 10.9 mmol, 1.28 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | DPPF PdCl2 | 1.18 mmol, 966 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2].Cl[Pd]Cl
product | 3-Chloro-5-hydroxy-pyridine-2-carbonitrile | ClC=1C(=NC=C(C1)O)C#N | C6H3ClN2O
